US04411901
A mixture of 3-(1-piperazinyl)-1,2-benzisothiazole (5.0 g., 0.0228 mole), 1,4-dibromobutane (9.8 g., 0.0456 mole) and finely powdered anhydrous potassium carbonate (7.9 g., 0.057 mole) in 100 ml. of ethanol is stirred and refluxed for a 16 hr. period. The cooled reaction mixture is filtered and the filtrate concentrated in vacuo. Residual solid heated to reflux with 70 ml. of isopropanol and filtered. Concentration of the filtrate to about one-half volume and refrigeration affords 5.58 g. (69.1% yield) of 8-(1,2-benzoisothiazol-3-yl)-8-aza-5-azoniaspiro[4.5]decane bromide, m.p. 246.5°-253° C.

reactant | 3-(1-piperazinyl)-1,2-benzisothiazole | 0.0228 mole, 5.0 g | N1(CCNCC1)C1=NSC2=C1C=CC=C2 | C11H13N3S
reactant | 1,4-dibromobutane | 0.0456 mole, 9.8 g | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 0.057 mole, 7.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 8-(1,2-benzoisothiazol-3-yl)-8-aza-5-azoniaspiro[4.5]decane bromide | 69.1% yield | [Br-].S1N=C(C2=C1C=CC=C2)N2CC[N+]1(CCCC1)CC2 | InChI=1S/C15H20N3S.BrH/c1-2-6-14-13(5-1)15(16-19-14)17-7-11-18(12-8-17)9-3-4-10-18;/h1-2,5-6H,3-4,7-12H2;1H/q+1;/p-1
